US05225587
In known methods for producing α-AMP, an N-protected-L-aspartic anhydride is reacted with L-phenylalanine methyl ester in an organic solvent, and then the protecting group is eliminated by a conventional method (U.S. Pat. No. 3,786,039); and addition salt of L-aspartic anhydride with a strong acid is directly reacted with L-phenylalanine methyl ester (Japanese Patent Publication No. 14,217/74); or L-phenylalanine is reacted with N-formyl-L-aspartic anhydride in glacial acetic acid, and the formyl group is eliminated from the product to give α-L-aspartyl-L-phenylalanine (hereinafter referred to as α-AP), which is then esterified with methanol (U.S. Pat. No. 3,933,781).

reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | L-aspartic anhydride | N[C@H]1CC(=O)OC1=O | C4H5NO3
reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | N-formyl-L-aspartic anhydride | C(=O)N[C@H]1CC(=O)OC1=O | C5H5NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-L-aspartyl-L-phenylalanine | N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C13H16N2O5
